US07851473B2
(1) 1,2-Benzisoxazol-3-amine
To a solution of acetohydroxamic acid (10.0 g, 133 mmol) in N,N-dimethylformamide (150 ml) was added potassium tert-butoxide (14.9 g, 133 mmol), and the mixture was stirred at room temperature for 30 minutes. 2-Fluorobenzonitrile (18.0 g, 133 mmol) was added thereto, followed by stirring at room temperature for 5 hours. The reaction mixture was poured to water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from hexane to give 4.80 g (27.0%) of the desired product as a solid.

reactant | acetohydroxamic acid | 133 mmol, 10.0 g | C(C)(=O)NO | C2H5NO2
reactant | potassium tert-butoxide | 133 mmol, 14.9 g | CC(C)([O-])C.[K+]
reactant | 2-Fluorobenzonitrile | 133 mmol, 18.0 g | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1,2-Benzisoxazol-3-amine | 4.80 g, 27.0% | O1N=C(C2=C1C=CC=C2)N | C7H6N2O
